data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH:21].[CH2:10]=[C:11](CCC=O)[O-:12]>>[H:20][CH2:10][C:11](=[O:12])CCC=O.[OH-:21] 10,11=10,20;20,21=21;12=11
CO[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CO[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
CC(C)[CH+:20]C1=CC=CC=C1.[Br-:10]>>CC(C)[CH:20](C1=CC=CC=C1)[Br:10] 10=20,
[H:20][NH:21]C(=O)C=C.CC[O-:10]>>[H:20][O:10]CC.C=CC(=O)[NH-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[OH:10].CC1[C:20]([OH+:21]1)(C)C>>CC[OH+:10][C:20](C)(C)C(C)[OH:21] 10=20;20,21=21
[B-]([O:10]CCC[O+:21]=[C:20](C)C)(F)(F)F>>[B-]([O+:10]1CCC[O:21][C:20]1(C)C)(F)(F)F 10=20;20,21=21
[Li:11][CH:10](C)[CH:20]=[CH2:21]>>[Li+:11].C[CH:10]=[CH:20][CH2-:21] 10,11=10,20;20,21=21
[H:10][C:11]1(CCC(CC1CCC)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCC)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=CC=C[C+:22]1C)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[C:21](C=CC=C1)C(C)C 10=20;20,21=21,22
[H:20][O:21]C(C)C(C)[Si](C)(C)C.[H:10][K:11]>>CC(C(C)[Si](C)(C)C)[O-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
C[O:11][Si-:10](C)(C)(C)Cl>>C[O-:11].C[Si:10](C)(C)Cl 10,11=11
[H:20][N+:21]1(C(=CCC1(C2=CC=CC=C2)O)C3=CC=CC=C3)CC4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1C=C([N:21](C1(C2=CC=CC=C2)O)CC3=CC=CC=C3)C4=CC=CC=C4.O 10=20;20,21=21
CCOC[C:20]1([NH:10]C2=C(N1CC(C)(C)O)C3=C(C=CC=C3)N=C2N)[OH:21]>>CCOC[C:20]1=[NH+:10]C2=C(N1CC(C)(C)O)C3=C(C=CC=C3)N=C2N.[OH-:21] 10=20;20,21=21
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OCC3C(CCN3C(=O)OC(C)(C)C)OC4=CC(=C(C=C4)OC)C=CNC(=O)C5CCCN5C(=O)OCC=C)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OCC3C(CCN3C(=O)OC(C)(C)C)OC4=CC(=C(C=C4)OC)C=CNC(=O)C5CCCN5C(=O)OCC=C.CC(=O)O 10,11=11
COC(C1(C(O1)C(=O)C2=CC=CC=C2)C3=CC=CC=C3)([O-])[OH+:11][K:10]>>COC(C1(C(O1)C(=O)C2=CC=CC=C2)C3=CC=CC=C3)([OH:11])[O-].[K+:10] 10,11=11
CC1=C[C+:22]([C:21]2(C[CH:20]2CCC(=[O:10])OC)C=C1)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1=C[C:22](=[C:21](C=C1)C[CH:20]2CCC(=[O+:10]2)OC)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21,22
[H:20][C:21]1(C2(CCCC2)OC=N1)S(=O)(=O)C3CCC(CC3)C.CC[O-:10]>>[H:20][O:10]CC.CC1CCC(CC1)S(=O)(=O)[C-:21]2C3(CCCC3)OC=N2 10=20;20,21=21
[H:20][O+:21](CC)C(C)(C)OCC.OS(=O)(=O)[O-:10]>>CCOC(C)(C)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
C[C:20]1=[CH:21][C:22](=[OH+:23])CCC1(C)CC[C:10]#[C:11]C[Si](C)(C)C.CS(=O)(=O)[O-]>>CC12CC[C:22](=[CH:21][C:20]1([C:10](=[C+:11]C[Si](C)(C)C)CC2)C)[OH:23].CS(=O)(=O)[O-] 10,11=10,20;22,23=23;20,21=21,22
[H:20][CH:21]1[CH:22](CCC(C=C1O[Si](C)(C)C)C)[I:23].C1CC[C:11]2=[N:10]CCC[N:12]2CC1>>[H:20][N:10]1CCC[N+:12]2=[C:11]1CCCCC2.CC1CC[CH:22]=[CH:21]C(=C1)O[Si](C)(C)C.[I-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1CCC(=O)CC1.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)(C)CO>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1CC(=O)CCC1C(=O)[O-:21].CC(C)(C)CO 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.C[O:10]C1CC2C3CC4=C(C2(CCN3)C=C1O)C(=C(C=C4)OC)O>>[H:20][O+:10](C)C1CC2C3CC4=C(C2(CCN3)C=C1O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C1CCC2(CC1)OCCO2)OC.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.COC(C1CCC2(CC1)OCCO2)[OH:21].O 10=20;20,21=21
CC1(C2CCC1([C:10]3(C2[OH+:11]3)C4=CC=CC=C4)C)C.O>>CC1(C2CCC1([C+:10](C2[OH:11])C3=CC=CC=C3)C)C.O 10,11=11
[H:20][O:21]C(=O)C.CCOC(=O)C1=C(CC(O1)(C(=O)OCC)[OH:10])C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].C1CCOC1>>[H:20][OH+:10]C1(CC(=C(O1)C(=O)OCC)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-])C(=O)OCC.CC(=O)[O-:21].C1CCOC1 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(C)(C)C1CC2C34C15CC([O:10]C5OC3(CC=C4)C(=O)O2)OC.BrBr>>[H:20][O+:10]1C(CC23C1OC45C2(C=CC4)C(CC3C(C)(C)C)OC5=O)OC.CC(=O)[O-:21].BrBr 10=20;20,21=21
[H:20][O+:21]=C(C1CC(C[NH2+]1)O)OCC2=CC=CC=C2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].C1C(C[NH2+]C1C(=[O:21])OCC2=CC=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:10][BH3-:11].CCCCCCCCCCCCCCCCCCCCCCCCCCCCC[CH:20]=[O:21].[Na+]>>[H:10][CH:20](CCCCCCCCCCCCCCCCCCCCCCCCCCCCC)[O-:21].[BH3:11].[Na+] 10,11=10,20;20,21=21
[Li-2:11]1([N+](CC[N+]1(C)C)(C)C)[CH2:10][CH:20]2[CH2:21]C2CC=C>>[Li-:11]1[N+](CC[N+]1(C)C)(C)C.[CH2-:21]C(CC=C)[CH:20]=[CH2:10] 10,11=10,20;20,21=21
CCCCCC1CC[C:11]([CH2:10]1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CCCCCC1CC[C:11](=[OH+:12])[CH2:20][CH2:10]1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
C[N:10](C1CC2=C(CC1O)C(=CC=C2OC)OC)C3=CC=C(C=C3)OC.[CH3:20][I:21].C(=O)(O)[O-].C(=O)([O-])[O-].[I-]>>C[N+:10]([CH3:20])(C1CC2=C(CC1O)C(=CC=C2OC)OC)C3=CC=C(C=C3)OC.[I-:21].C(=O)(O)[O-].C(=O)([O-])[O-].[I-] 10=20;20,21=21
